US05166170
2,3-Dihydro-2-(2-amino-4-trifluoromethylphenyl)-1H-indole
Borane-tetrahydrofuran complex (1.0M, 130 ml) was added dropwise to a solution of 90 ml THF and 90 ml TFA (trifluoroacetic acid) at -5° C., and then 17.93 g 2-(2-amino-4-trifluoromethylphenyl)-1H-indole was added. The resulting solution was stirred at room temperature overnight. The reaction mixture was quenched with water and basified with 50% NaOH. The solution was extracted with Et2O. This organic layer was washed with water and saturated NaCl solution, dried (MgSO4), and concentrated to yield 3.65 g solid. Purification by HPLC and recrystallization from MeOH/water yielded 1.93 g solid, m.p. 152°-154° C.

reactant | TFA | 90 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(2-amino-4-trifluoromethylphenyl)-1H-indole | 17.93 g | NC1=C(C=CC(=C1)C(F)(F)F)C=1NC2=CC=CC=C2C1 | C15H11F3N2
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | 2,3-Dihydro-2-(2-amino-4-trifluoromethylphenyl)-1H-indole | 3.65 g | NC1=C(C=CC(=C1)C(F)(F)F)C1NC2=CC=CC=C2C1 | C15H13F3N2
